US04540806
13-Amino-6,7,8,9,10,11-hexahydro-3-hydroxy-5-methyl-5,11-methanobenzocyclodecen-12(5H)-one
13-Acetylamino-6,7,8,9,10,11-hexahydro-3-acetoxy-5-methyl-5,11-methanobenzocyclodecen-12(5H)-one (3 g., 0.008 mole) was refluxed with 10 mL of 20% hydrochloric acid in the presence of a few drops of ethanol for 24 hours. The reaction mixture was boiled with 0.5 g. of charcoal, filtered and the solvent was evaporated under reduced pressure. The remaining solid was recrystallized from acetone-ethanol (5:1) to afford 1.5 g. (65% yield) of the title compound as a hydrochloride dihydrate, mp 256°-258° C.

reactant | 13-Acetylamino-6,7,8,9,10,11-hexahydro-3-acetoxy-5-methyl-5,11-methanobenzocyclodecen-12(5H)-one | 0.008 mole, 3 g | C(C)(=O)NC1C2(CCCCCC1C(C1=C2C=C(C=C1)OC(C)=O)=O)C | C20H25NO4
catalyst | ethanol | a few drops | C(C)O | C2H6O
solvent | hydrochloric acid | 10 mL | Cl | ClH
product | 13-Amino-6,7,8,9,10,11-hexahydro-3-hydroxy-5-methyl-5,11-methanobenzocyclodecen-12(5H)-one | 65% yield | NC1C2(CCCCCC1C(C1=C2C=C(C=C1)O)=O)C | C16H21NO2
